US07772226B2
(g) t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate
0.120 g of manganese dioxide was added to a 2-ml dichloromethane solution of 0.061 g of t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate, and the mixture was stirred at room temperature for 15 hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.055 g of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (7:3).

reactant | t-butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-hydroxymethyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.061 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)CO)N1CCN(CC1)C(=O)OC(C)(C)C | C20H30N4O5
catalyst | manganese dioxide | 0.120 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 2-ml | ClCCl | CH2Cl2
product | t-Butyl 4-[1-(2-butynyl)-5-ethoxycarbonyl-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.055 g | C(C#CC)N1C(=NC(=C1C(=O)OCC)C=O)N1CCN(CC1)C(=O)OC(C)(C)C | C20H28N4O5
